US05472978
a) 2-Amino-3-(3-indolyl)-1-propanol
L Tryptophan (10.2 g) was cautiously added in portions to a stirred solution of lithium aluminium hydride in tetrahydrofuran (1M, 150 ml). The reaction was stirred for 72 hours and then heated to reflux for 1 hour. The reaction mixture was cooled and then quenched carefully with 2N sodium hydroxide (150 ml). Ethyl acetate (500 ml) was added and the mixture was filtered through a pad of Celite. The organic phase was washed with water, dried (MgSO4) and evaporated to yield the crude title compound.

reactant | Tryptophan | 10.2 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 1M, 150 ml | O1CCCC1 | C4H8O
product | 2-Amino-3-(3-indolyl)-1-propanol | NC(CO)CC1=CNC2=CC=CC=C12 | C11H14N2O
